US07790741B2
Step C: 6-[6-(2,4-Difluorophenyl)-imidazo[2,1-b]oxazol-5-yl]-3-isopropyl-[1,2,4]triazolo[4,3-a]pyridine
In a round bottom flask {5-[6-(2,4-difluorophenyl)-imidazo[2,1-b]oxazol-5-yl]-pyridin-2-yl}-hydrazine (0.35 g, 1.1 mmol) and 2-methylpropionaldehyde (0.1 mL, 1.1 mmol) was dissolved in MeOH (5 mL) followed by heating to about 60° C. for about 1 h. The reaction was allowed to cool to ambient temperature and then iodobenzene diacetate (0.35 g, 1.1 mmol) was added followed by stirring for about 1 h. The reaction was then purified directly by flash chromatography using DCM/MeOH (90:10) as eluent followed by titration with Et2O to provide the title compound (0.075 g, 18%) as an off-white solid: LC/MS (Table 1, Method a) Rt, =2.12 min; MS m/z: 380.2 (M+H)+.

reactant | {5-[6-(2,4-difluorophenyl)-imidazo[2,1-b]oxazol-5-yl]-pyridin-2-yl}-hydrazine | 1.1 mmol, 0.35 g | FC1=C(C=CC(=C1)F)C=1N=C2OC=CN2C1C=1C=CC(=NC1)NN | C16H11F2N5O
reactant | 2-methylpropionaldehyde | 1.1 mmol, 0.1 mL | CC(C=O)C | C4H8O
reactant | iodobenzene diacetate | 1.1 mmol, 0.35 g | C(C)(=O)O.C(C)(=O)O.IC1=CC=CC=C1
solvent | MeOH | 5 mL | CO | CH4O
product | 6-[6-(2,4-Difluorophenyl)-imidazo[2,1-b]oxazol-5-yl]-3-isopropyl-[1,2,4]triazolo[4,3-a]pyridine | 0.075 g, 18% | FC1=C(C=CC(=C1)F)C=1N=C2OC=CN2C1C=1C=CC=2N(C1)C(=NN2)C(C)C | C20H15F2N5O
